US05538940
A mixture of 50 g (0.324 mol) of 2-chloroacetophenone, 104.8 g (0.97 mol) of m-cresol, 45 g (0.326 mol) of potassium carbonate and 1 g of copper is heated at 120° C. for 16 hours. After cooling it is poured into water and extracted twice with methyl tert-butyl ether (MTB ether). The ether phase is washed five times with concentrated sodium hydroxide solution and then twice with water, dried and concentrated. 67.2 g (92% yield) of 2-(3-methylphenoxy)acetophenone remain as yellow oil.

reactant | 2-chloroacetophenone | 0.324 mol, 50 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | m-cresol | 0.97 mol, 104.8 g | C1=C(C=CC=C1O)C | C7H8O
reactant | potassium carbonate | 0.326 mol, 45 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 1 g | [Cu] | Cu
solvent | water | O | H2O
product | 2-(3-methylphenoxy)acetophenone | 67.2 g, 92% yield | CC=1C=C(OCC(=O)C2=CC=CC=C2)C=CC1 | C15H14O2
